US06046232
Synthesis of α-(3-Ethoxy-4-hexyloxyphenyl)-N-cyclohexylnitrone
The title compound was prepared according to the procedure described in Example 28 using 3-ethoxy-4-hydroxybenzaldehyde, 1-iodohexane and N-cyclohexylhydroxylamine. The title compound was isolated in 41.3 % yield as a solid, m.p. 67.3° C.

reactant | 3-ethoxy-4-hydroxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | 1-iodohexane | ICCCCCC | C6H13I
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | α-(3-Ethoxy-4-hexyloxyphenyl)-N-cyclohexylnitrone | C(C)OC=1C=C(C=CC1OCCCCCC)C=[N+]([O-])C1CCCCC1 | C21H33NO3
